* ============================================================================
* American Tube Tape Channel — SPICE reference deck at default controls
* ============================================================================
* Mirrors circuits/product/american_tube_tape_channel.pedal at its default
* operating point: a 12AX7 common-cathode tube front end, an active record
* driver, a voltage-driven Jiles-Atherton tape-head shunt, playback tilt, and
* output trim.
*
* Defaults:
*   Drive=0.35 audio taper -> Rdrive ~= 13.8k, gain ~= -(10k+13.8k)/1k = -23.8
*   Bias=0.55 -> 6.5k head-loading trim including 1k floor
*   Tone=0.60 -> 150k shunt
*   Output=0.75 -> 0.75x output pickoff
* ============================================================================

.param DRIVE_GAIN=23.8
.param BIAS_R=6.5k
.param TONE_R=150k
.param OUT_GAIN=0.75

* B+ supply.
Vb bplus 0 DC 250

* 12AX7 tube front end.
C_in    v_in    n_grid 22n
R_grid  n_grid  0      1Meg
R_plate bplus   n_plate 100k
X1 n_plate n_grid n_cath TRIODE_12AX7
R_cath n_cath 0 1.5k
C_cath n_cath 0 25u
C_tube_out n_plate n_tube_ac 22n

* Active record-driver equivalent.
Bdrv n_drv 0 V = -DRIVE_GAIN * V(n_tube_ac)
C_drv      n_drv   n_cdrv  47u
R_buildout n_cdrv  n_head  470

* Engine-native panel-bias proxy: variable head-loading trim.
Rbias      n_head n_bias_load {BIAS_R}
Rbiasfloor n_bias_load 0      1k

* Head load + playback tilt.
R_head_load n_head 0    2.2k
R_pb        n_head n_pb 3.3k
C_loss      n_pb   0    3.3n
R_tone      n_pb   0    {TONE_R}

* Output coupling and trim.
C_out n_pb n_cout 1u
R_out_ref n_cout 0 1Meg
Bout v_out 0 V = OUT_GAIN * V(n_cout)

* --------------------------------------------------------------------------
* Voltage-driven Jiles-Atherton tape head, same parameterization as
* spice-circuits/tape/tape_head_saturation.spice.
* --------------------------------------------------------------------------
.param Ms=3.5e5
.param Aja=1500
.param Alpha=1.6e-3
.param Kja=30
.param Cja=0.65
.param Kv=8000
.param Isat=2.0e-4
.param Gp=8.0e-5
.param Hbias=400

Bh h 0 V = Kv*V(n_head) + Hbias
Bhdot hdot 0 V = ddt(V(h))

.func Lang(x)  {abs(x) < 1e-4 ? (x/3 - x*x*x/45) : (1/tanh(x) - 1/x)}
.func LangD(x) {abs(x) < 1e-4 ? (1.0/3 - x*x/15) : (1/(x*x) - 1/(sinh(x)*sinh(x)))}

Bman   man   0 V = Ms * Lang( (V(h) + Alpha*V(m)) / Aja )
BdmanH dmanh 0 V = Ms * LangD( (V(h) + Alpha*V(m)) / Aja ) / Aja
Bdelta  delta  0 V = (V(hdot) >= 0 ? 1 : -1)
Bdiff   diff   0 V = V(man) - V(m)
BdeltaM deltaM 0 V = ((V(diff)*V(delta)) >= 0 ? 1 : 0)
Bden    den    0 V = V(delta)*Kja*(1-Cja) - Alpha*V(diff)
Bdeng   deng   0 V = (abs(V(den)) < 1e-9*(1+abs(V(diff))) ? (V(den) >= 0 ? 1e-9*(1+abs(V(diff))) : -1e-9*(1+abs(V(diff)))) : V(den))
Bslope  slope  0 V = max( (1-Cja)*V(deltaM)*V(diff)/V(deng) + Cja*V(dmanh), Cja*V(dmanh) )

.param M0={Ms*( abs(Hbias/Aja) < 1e-4 ? ((Hbias/Aja)/3) : (1/tanh(Hbias/Aja) - Aja/Hbias) )}
B_mi 0 m I = V(slope)*V(hdot)
C_m  m 0 1 ic={M0}
R_m  m 0 1e12

Bhead n_head 0 I = Gp*V(n_head) + Isat*V(m)/Ms

* --------------------------------------------------------------------------
* 12AX7 Koren subcircuit, matching existing validation decks.
* --------------------------------------------------------------------------
.SUBCKT TRIODE_12AX7 anode grid cathode
.PARAM MU=100 EX=1.4 KG1=1060 KP=600 KVB=300
Bgk gk 0 V = V(grid,cathode)
Bak ak 0 V = V(anode,cathode)
Bip anode cathode I = {
+ (PWR(
+   LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2)))))
+   * MAX(V(ak), 0.001) / KP,
+   EX)
+ / KG1)
+ * (1 + SGN(LOG(1 + EXP(KP * (1/MU + V(gk)/SQRT(KVB + PWR(V(ak),2))))) * MAX(V(ak),0.001) / KP)) / 2
+ }
Dgc grid cathode DGRID
.MODEL DGRID D(IS=1e-12 N=1.5 RS=1k)
.ENDS TRIODE_12AX7

.ic V(n_plate)=160 V(n_cath)=1.5 V(n_tube_ac)=0 V(n_cdrv)=0 V(n_head)=0 V(n_pb)=0 V(n_cout)=0
.end
